US08076345B2
5-Fluoro-2-{4-[(6-trifluoromethyl-pyridin-3-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile
A 2 mL microwave vial was charged with N-((6-(trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (50 mg, 0.16 mmol), 2,5-difluorobenzonitrile (130 mg, 0.97 mmol), acetonitrile (0.4 mL) and N,N-diisopropylethylamine (84 μL, 0.48 mmol). The mixture was subjected to microwave irradiation at 200° C. for 4 h. After cooling the mixture was diluted with chloroform (7 mL), and washed with 0.1 M NaH2PO4 (10 mL), dried (Na2SO4), filtered and concentrated. The residue was purified by semi-preparative HPLC (100×20.2 mm, C18 column; 20-90% MeCN/H2O [10 mM diethylamine]) to yield an off-white solid (8 mg).

reactant | N-((6-(trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 0.16 mmol, 50 mg | FC(C1=CC=C(C=N1)CNC=1C2=C(N=CN1)CCNC2)(F)F | C14H14F3N5
reactant | 2,5-difluorobenzonitrile | 0.97 mmol, 130 mg | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | acetonitrile | 0.4 mL | C(C)#N | C2H3N
reactant | N,N-diisopropylethylamine | 0.48 mmol, 84 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 7 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Fluoro-2-{4-[(6-trifluoromethyl-pyridin-3-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile | 8 mg | FC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)C(F)(F)F)CC1 | C21H16F4N6
